US04337197
(E) (3S-trans)-3-[[[[(4-Ethyl-2,3-dioxo-1-piperazinyl)carbonyl]amino]phenylacetyl]amino]-4-methyl-1-(phenylmethoxy)-2-azetidinone
A suspension of α-[[(4-ethyl-2,3-dioxo-1-piperazinyl)carbonyl]amino]benzeneacetic acid (0.879 g) hydroxybenzotriazole (0.42 g), and dicyclohexylcarbodiimide (0.56 g), in dimethylformamide (15 ml) is stirred at 26° C. for one hour, at which point a solution of (3S-trans)-3-amino-4-methyl-1-(phenylmethoxy)-2-azetidinone, toluenesulfonate (0.95 g) and diisopropylethylamine (0.44 ml) in dimethylformamide (5 ml) is added. The reaction mixture is stirred at room temperature for about 16 hours, then poured into water (100 ml) and extracted with ethyl acetate (three 100 ml portions). The combined organic extracts are washed with water (three 100 ml portions) and aqueous sodium bicarbonate solution (one 100 ml portion), then dried over sodium sulfate and concentrated under reduced pressure to a semi-solid residue. Liquid chromatography (ethyl acetate) affords the desired product as a foam (0.599 g). Recrystallization from chloroform/isopropyl ether yields the title compound, melting point 100°-105° C.

reactant | α-[[(4-ethyl-2,3-dioxo-1-piperazinyl)carbonyl]amino]benzeneacetic acid | 0.879 g | C(C)N1C(C(N(CC1)C(=O)NC(C(=O)O)C1=CC=CC=C1)=O)=O | C15H17N3O5
reactant | dicyclohexylcarbodiimide | 0.56 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (3S-trans)-3-amino-4-methyl-1-(phenylmethoxy)-2-azetidinone | N[C@@H]1C(N([C@H]1C)OCC1=CC=CC=C1)=O | C11H14N2O2
reactant | toluenesulfonate | 0.95 g | C=1(C(=CC=CC1)S(=O)(=O)[O-])C
reactant | diisopropylethylamine | 0.44 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | (3S-trans)-3-[[[[(4-Ethyl-2,3-dioxo-1-piperazinyl)carbonyl]amino]phenylacetyl]amino]-4-methyl-1-(phenylmethoxy)-2-azetidinone | 0.599 g | C(C)N1C(C(N(CC1)C(=O)NC(C(=O)N[C@@H]1C(N([C@H]1C)OCC1=CC=CC=C1)=O)C1=CC=CC=C1)=O)=O | C26H29N5O6
